US06140100
To a 250 mL round bottomed flask equipped with a magnetic stirrer and a nitrogen inlet were added 2.19 g of tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(3-pentyl)benzyl)-4-morpholinecarboxylate and 45 mL of anhydrous CH2Cl2. The solution was cooled to 0° C. and was treated with 3.5 mL of TFA. The solution was allowed to warm to RT and was stirred under nitrogen. After 5 h, tlc (SiO2, 9:1 hexane:EtOAc) indicated a trace of starting material and a major new component at Rf =0.42. The reaction mixture was poured into 150 mL of 6% aqueous NaHCO3 and stirred for several minutes. The phases were separated and the aqueous portion was extracted with 3 additional 40 mL portions of CH2Cl2. The extracts were combined with the original CH2Cl2 solution and washed with 5% aqueous NaHCO3 (3×60 mL. The solution was dried over anhydrous MgSO4 and concentrated to give a light tan solid. This material was purified by flash chromatography on silica gel (85:15 hexane:EtOAc) to afford 1.47 g (84%) of (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(3-pentyl)benzyl)morpholine as a white crystalline solid. An analytical sample was prepared by recrystallization from EtOH--H2O. Melting point, 96-97° C.

reactant | tert-butyl (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(3-pentyl)benzyl)-4-morpholinecarboxylate | 2.19 g | O=C1O[C@@H]([C@@H](N([C@H]1CC1=CC(=CC=C1)C(CC)CC)C(=O)OC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1 | C33H39NO4
reactant | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
reactant | TFA | 3.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | (2R, 3S, 5S)-6-oxo-2,3-diphenyl-5-(3-(3-pentyl)benzyl)morpholine | 1.47 g, 84% | O=C1O[C@@H]([C@@H](N[C@H]1CC1=CC(=CC=C1)C(CC)CC)C1=CC=CC=C1)C1=CC=CC=C1 | C28H31NO2
